US08975254B2
d) (R)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile
4-(1H-pyrazol-5-yl)-2-(trifluoromethyl)benzonitrile (1.0 g, 4.22 mmol) and (R)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione (1.35 g, 5.06 mmol) were weighed into a microreaction vial and DMF (10 ml) was added. Then, potassium carbonate (1.165 g, 8.43 mmol), copper(I) iodide (0.040 g, 0.21 mmol) and N,N′-dimethyl-ethylenediamine (0.004 ml, 0.042 mmol) were added and the reaction vial was capped under nitrogen and was heated in the microwave oven (Biotage) at 160° C. for 30 min. The mixture was then poured into water and extracted with DCM and 2% MeOH/DCM. Organic layers were combined, dried with Na2SO4, filtered and evaporated to dryness. CombiFlash purifications using normal and reversed phase columns afforded 0.199 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.54 (m, 3H), 4.55-4.65 (m, 3H), 6.95 (d, 1H), 7.77 (m, 4H), 7.82 (m, 1H), 7.86-7.89 (m, 2H), 8.01 (d, 1H).

reactant | 4-(1H-pyrazol-5-yl)-2-(trifluoromethyl)benzonitrile | 4.22 mmol, 1.0 g | N1N=CC=C1C1=CC(=C(C#N)C=C1)C(F)(F)F | C11H6F3N3
reactant | (R)-2-(1-bromopropan-2-yl)isoindoline-1,3-dione | 5.06 mmol, 1.35 g | BrC[C@@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H10BrNO2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 8.43 mmol, 1.165 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.21 mmol, 0.040 g | [Cu]I
catalyst | N,N′-dimethyl-ethylenediamine | 0.042 mmol, 0.004 ml | CNCCNC | C4H12N2
solvent | water | O | H2O
product | (R)-4-(1-(2-(1,3-dioxoisoindolin-2-yl)propyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)benzonitrile | 0.199 g | O=C1N(C(C2=CC=CC=C12)=O)[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C22H15F3N4O2
